US07544672B2
Step 1: Methanesulfonic acid but-3-ynyl ester
A solution of 3-but-1-ynol (5.62 g, 80.2 mmoL) and Et3N (14.5 mL, 104 mmol) in DCM (40 mL) was treated with MsCl (7.48 mL, 96.2 mmol) at 0° C. for 10 min. Work-up (water; sat. aq. NaHCO3), drying (Na2SO4), and concetration gave the title compound as a pale orange oil. 1H NMR (CDCl3) δ 4.32 (t, 2H), 3.07 (s, 3H), 2.67 (td, 2H), 2.09 (t, 2H).

reactant | 3-but-1-ynol | 5.62 g | C#CC(C)O | C4H6O
reactant | Et3N | 104 mmol, 14.5 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 96.2 mmol, 7.48 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Methanesulfonic acid but-3-ynyl ester | C(CC#C)OS(=O)(=O)C | C5H8O3S
